US07932272B2
C-Biphenyl-3-yl-methylamine
Next, a solution of the resulting biphenyl-3-carbonitrile (821 mg, 4.58 mmol) in tetrahydrofuran (5 mL) was added to a solution of lithium aluminum hydride (0.435 g, 11.5 mmol) in tetrahydrofuran (5 mL) that had been cooled on an ice bath, and the solution was stirred for 6 hours at room temperature. The reaction solution was cooled on an ice bath, a mixture solution of methanol and water (9:1) was added thereto, an aqueous solution of saturated ammonium chloride was further added, filtration was carried out through Celite pad and insoluble matter was removed. The filtrate was partitioned, the organic layer was dried over anhydrous magnesium sulfate, and the title compound (527 mg, 63%) was obtained as a brown oil. This was used in the next reaction without further purification.

reactant | biphenyl-3-carbonitrile | 4.58 mmol, 821 mg | C1(=CC(=CC=C1)C#N)C1=CC=CC=C1 | C13H9N
reactant | lithium aluminum hydride | 11.5 mmol, 0.435 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methanol | CO | CH4O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | C-Biphenyl-3-yl-methylamine | 527 mg, 63% | C1(=CC(=CC=C1)CN)C1=CC=CC=C1 | C13H13N
